US05919753
(b) Cesium benzyl glutarate
Crude benzyl hydrogen glutarate (25 g, 100 mmol) is stirred in water (100 ml) to form a slurry. An aqueous solution of 1M cesium carbonate is added until the pH reaches 7 (52 ml is consumed). The homogeneous reaction mixture is diluted with water (150 ml), and extracted with chloroform (2×50 ml) to remove nonpolar impurities from the crude starting material. Water is removed in vacuo, and the oily, grayish semicrystalline residue is slurried in dimethylformamide (200 ml), and evaporated to dryness in vacuo. This procedure is repeated twice, yielding an off-white crystalline product, which is used without further characterization.

reactant | benzyl hydrogen glutarate | 100 mmol, 25 g | C(CCCC(=O)O)(=O)OCC1=CC=CC=C1 | C12H14O4
reactant | cesium carbonate | 1M | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 100 ml | O | H2O
product | Cesium benzyl glutarate | C(CCCC(=O)[O-])(=O)OCC1=CC=CC=C1.[Cs+] | InChI=1S/C12H14O4.Cs/c13-11(14)7-4-8-12(15)16-9-10-5-2-1-3-6-10;/h1-3,5-6H,4,7-9H2,(H,13,14);/q;+1/p-1
